US07855290B2
3-(Azetidin-1-ylcarbonyl)-1-benzhydrylazetidine
1-Benzhydrylazetidine-3-carboxylic acid (1.52 g) was dissolved in N,N-dimethylformamide (30 ml) at room temperature under a nitrogen atmosphere. Triethylamine (3.17 ml), BOP reagent (5.03 g), and azetidine hydrochloride (1.06 g) were added in this order, followed by stirring for 24 hr. To the reaction mixture was added a 1N aqueous solution of sodium hydroxide (50 ml), followed by stirring. The liquid-liquid separation was carried out after addition of ethyl acetate (100 ml). The separated organic layer was washed with a 1N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. To the residue (1.83 g) obtained by removing the solvent were added ethyl acetate (2 ml) and tert-butyl methyl ether (10 ml) to precipitate crystals. The crystals were collected by filtration and dried under aeration to provide the titled compound as pale yellow crystals (1.14 g, 65%).

reactant | 1-Benzhydrylazetidine-3-carboxylic acid | 1.52 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)O | C17H17NO2
reactant | BOP reagent | 5.03 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | azetidine hydrochloride | 1.06 g | Cl.N1CCC1
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Triethylamine | 3.17 ml | C(C)N(CC)CC | C6H15N
product | 3-(Azetidin-1-ylcarbonyl)-1-benzhydrylazetidine | 1.83 g | N1(CCC1)C(=O)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O
